US08242125B2
A solution of methanesulfonic acid 4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]pyridine-2-ylmethyl ester (150 mg, 0.30 mmol) and isopropyl amine (5 mL) is stirred at rt for 2 h. The reaction is concentrated under reduced pressure and the residue separated via semi-prep HPLC (C18; 10-100% I/H2O with 0.1% NH4OH) to give 5-[2-(isopropylamino-methyl)-pyridin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide. MS (ESI) m/z 469.2 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.25-8.37 (m, 2H), 7.97 (s, 1H), 7.88 (d, J=3.8 Hz, 1H), 7.80 (d, J=8.1 Hz, 1H), 7.48 (t, J=8.0 Hz, 1H), 7.36 (d, J=7.6 Hz, 1H), 7.30 (d, J=2.3 Hz, 1H), 7.00 (dd, J=9.0, 2.4 Hz, 1H), 6.90 (d, J=2.3 Hz, 1H), 6.81 (dd, J=5.8, 2.3 Hz, 1H), 6.66 (d, J=3.8 Hz, 1H), 4.01 (s, 2H), 3.09-3.18 (m, 1H), 1.18 (d, J=6.6 Hz, 6H).

reactant | methanesulfonic acid 4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]pyridine-2-ylmethyl ester | 0.30 mmol, 150 mg | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)COS(=O)(=O)C)(F)F | C23H18F3N3O5S
reactant | isopropyl amine | 5 mL | C(C)(C)N | C3H9N
product | 5-[2-(isopropylamino-methyl)-pyridin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CNC(C)C)(F)F | C25H23F3N4O2
